US04070539
To a suspension of (1-oxo-2-ethyl-3-methyl-6,7-dichloro-5-indanyloxy)acetic acid (3.5 g., 0.011 mole) in glacial acetic acid (75 ml.) and concentrated hydrochloric acid (2 drops) is added, with stirring, a solution of glacial acetic acid (50 ml.) and chlorine (0.9 g., 0.0127 mole) over a period of 10 minutes. During the addition the reaction vessel is heated on a steam bath. After the addition is complete, the mixture is stirred without heating for 30 minutes and then poured into ice water (600 ml.). The white solid that separates is collected by filtration, washed with water and dried. The yield of product is 3.6 g. (93% yield) of (1-oxo-2-ethyl-3-methyl-2,6,7-trichloro-5-indanyloxy)acetic acid which, after recrystallization from nitromethane, melts at 208.5°-210.5° C.

reactant | (1-oxo-2-ethyl-3-methyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.011 mole, 3.5 g | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C)CC | C14H14Cl2O4
reactant | chlorine | 0.0127 mole, 0.9 g | ClCl | Cl2
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-ethyl-3-methyl-2,6,7-trichloro-5-indanyloxy)acetic acid | 93% yield | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C)(Cl)CC | C14H13Cl3O4
